US08729102B2
A) tert-butyl {(1S)-2-[(6-{6-[(3,3-difluorocyclobutyl)methoxy]-1,3-benzoxazol-2-yl}pyridin-3-yl)oxy]-1-methylethyl}carbamate
Using tert-butyl [(1S)-2-{[6-(6-hydroxy-1,3-benzoxazol-2-yl)pyridin-3-yl]oxy}-1-methylethyl]carbamate and (3,3-difluorocyclobutyl)methyl methanesulfonate, and in the same manner as in Example 2, step E, the title compound was obtained.

reactant | tert-butyl [(1S)-2-{[6-(6-hydroxy-1,3-benzoxazol-2-yl)pyridin-3-yl]oxy}-1-methylethyl]carbamate | OC1=CC2=C(N=C(O2)C2=CC=C(C=N2)OC[C@H](C)NC(OC(C)(C)C)=O)C=C1 | C20H23N3O5
reactant | (3,3-difluorocyclobutyl)methyl methanesulfonate | CS(=O)(=O)OCC1CC(C1)(F)F | C6H10F2O3S
product | tert-butyl {(1S)-2-[(6-{6-[(3,3-difluorocyclobutyl)methoxy]-1,3-benzoxazol-2-yl}pyridin-3-yl)oxy]-1-methylethyl}carbamate | FC1(CC(C1)COC1=CC2=C(N=C(O2)C2=CC=C(C=N2)OC[C@H](C)NC(OC(C)(C)C)=O)C=C1)F | C25H29F2N3O5
